US05786356
(S)-4-[2-Hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one
4-[2-Hydroxy-3-(N,N dibenzylamino) propoxy]-1,3-dihydro-2H-benzimidazol-2-one (4.35 g, 10.8 mmol) was dissolved in methanol (200 mL) and treated with a vast excess of ammonium formate (13.0 g, 0.21 mol), followed by 10% palladium on carbon (1.5 g). The suspension was stirred at reflux for 3 hours. After cooling the suspension, the reaction mixture was filtered through Celite. The filtrate concentrated in vacuo to a pale brown oil which slowly crystallized upon standing. The resulting solid was triturated using chloroform containing methanol and filtered to give 1.56 g (65%) as the desired product of a pale grey solid. NMR. MS.

reactant | 4-[2-Hydroxy-3-(N,N dibenzylamino) propoxy]-1,3-dihydro-2H-benzimidazol-2-one | 10.8 mmol, 4.35 g | OC(COC1=CC=CC=2NC(NC21)=O)CN(CC2=CC=CC=C2)CC2=CC=CC=C2 | C24H25N3O3
reactant | ammonium formate | 0.21 mol, 13.0 g | C(=O)[O-].[NH4+]
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | (S)-4-[2-Hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one | O[C@H](COC1=CC=CC=2NC(NC21)=O)CN | C10H13N3O3
